US09315521B2
2-{[(5-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (1.0 g, 3.82 mmol) was stirred in methanol (10 mL), and a solution of 4 N HCl in dioxane (2.86 mL, 11.47 mmol) was added dropwise at 0° C. The mixture was stirred for 5 minutes at 0° C. Anhydrous ether (25 mL) was added to precipitate the salt, which was filtered and washed with anhydrous ether to provide 2-{[(5-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride as a white solid (1.08 g, 95% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.23 (t, 3H), 2.23 (s, 3H), 2.81 (q, 2H), 4.49 (s, 2H), 6.09 (bs, 1H), 8.69 (s, 1H), 8.73 (s, 1H), 8.89 (s, 1H); M+261.5.

reactant | 2-{[(5-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 3.82 mmol, 1.0 g | C(C)C=1C=C(C=NC1)CSC1=NC(=CC(=N1)O)C | C13H15N3OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 11.47 mmol, 2.86 mL | O1CCOCC1 | C4H8O2
reactant | ether | 25 mL | CCOCC | C4H10O
solvent | methanol | 10 mL | CO | CH4O
product | 2-{[(5-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride | 1.08 g, 95% yield | Cl.C(C)C=1C=C(C=NC1)CSC1=NC(=CC(=N1)O)C | InChI=1S/C13H15N3OS.ClH/c1-3-10-5-11(7-14-6-10)8-18-13-15-9(2)4-12(17)16-13;/h4-7H,3,8H2,1-2H3,(H,15,16,17);1H
